US05098921
1-(2-Nitro-1-imidazolyl)-3-(2-fluoroethylamino)-2-propanol (RB-6159)
In a manner analogous to that described in Example 1(b) there was obtained by reaction of 1-(2-nitro-1-imidazolyl)-3-(1-aziridino)-2-propanol with aqueous hydrofluoric acid (48% w/w HF) at 0°-5° C., 1-(2-nitro-1-imidazolyl)-3-(2-fluoroethylamino)-2-propanol hydrochloride after stirring with cold ethanolic sodium hydroxide (1.0 mol equivalent) and decolourising charcoal for 15 minutes, filtration and treatment with a small excess of ethereal hydrogen chloride; yield 41%, m.p. 177°-179° C. (dec.).

reactant | 1-(2-nitro-1-imidazolyl)-3-(2-fluoroethylamino)-2-propanol hydrochloride | Cl.[N+](=O)([O-])C=1N(C=CN1)CC(CNCCF)O
reactant | sodium hydroxide | 1.0 mol | [OH-].[Na+]
reactant | charcoal | C | CH4
product | 1-(2-Nitro-1-imidazolyl)-3-(2-fluoroethylamino)-2-propanol | [N+](=O)([O-])C=1N(C=CN1)CC(CNCCF)O | C8H13FN4O3
